Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:6].[O:1][O:2][C@@:3]([H:4])([C:5]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.93979624558
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[O:9][H:10].[H:4],2.06208912281
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.922002248380001
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.56514883686
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.5018493581300003
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],4.65699349437
[C:3]([H:4])[O:5][C:6][O:7][H:8].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][H:8],-7.991103754219999
[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.03754337954
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.23732087297
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5][H:6],5.6055131647000005
[H:1][O:2][C:3]#[C:4][O:5][C:6]#[C:7][H:8].[H:9]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9],-2.52288687876
[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]1([H:9])[H:10]>>[H:1][C:2][C:8]([O:7][C:5](=[C:3][H:4])[H:6])([H:9])[H:10],5.8571841188
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]1([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.4542381359099998
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][H:4],1.19120190125
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5],1.05364087077
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3][O:5][C:6]([H:7])([H:8])[O:9][H:10].[H:4],3.92801655991
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9].[O:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-0.8063390641600001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7],7.6666786617
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[H:10].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:9],4.64574373065
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:11][H:12],3.4821676984300005
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-8.29316919
[C:1]#[C:2][O:3][C:4](=[O:5])[H:6]>>[C:1]#[C:2].[O:3][C:4](=[O:5])[H:6],4.7616272447900005
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2](=[O:3])[O:9][C:10]([H:11])([H:12])[H:13],0.4110226006099999
[H:1]/[C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],-0.82859283756
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],-5.0509686063
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5](#[C:11][H:12])[H:13].[H:1][C:2]([C:3]#[C:6][C:7]([H:8])([H:9])[H:10])([H:4])[H:14],-1.27682035093
[H:5].[O:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.92268378163
[C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.8134465592
[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[H:1][O:2][C:3](=[O:4])[C:8]([C:5]([H:6])[H:7])([H:9])[H:10],-1.2841932779
